US06407112B1
(S)-2a-(4-hydroxybutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
(S)-2a-(3-methoxycarboxypropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one (4.1 g, 15 mmol) was dissolved in dimethoxyethane (60 ml). Then, tetrahydrofuran solution of 1.6 M lithiumborohydride (9.0 ml, 18 mmol) was added to the resulting solution and stirred at room temperature for two days. The solvent was evaporated from the reaction mixture, and ethyl acetate, water and hydrochloric acid (1N) were added to the resulting residue. The reaction product was extracted with ethyl acetate, and the extracted product was washed with saturated saline solution, successively dried over anhydrous sodium sulfate, followed by evaporating the solvent. The resulting product was separated and purified by means of silica gel column chromatography, whereby 2.15 g (yield 58%) of the above-described object compound could be obtained.

reactant | (S)-2a-(3-methoxycarboxypropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 15 mmol, 4.1 g | COC(CC[C@]12C(NC=3C=CC=C(C13)CCC2)=O)C(=O)O | C16H19NO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithiumborohydride | 18 mmol, 1.6 M, 9.0 ml | [BH4-].[Li+]
solvent | dimethoxyethane | 60 ml | C(OC)COC | C4H10O2
product | (S)-2a-(4-hydroxybutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 2.15 g, yield 58% | OCCCC[C@]12C(NC=3C=CC=C(C13)CCC2)=O | C15H19NO2
